US06977256B2
A solution of morpholine-4-carboxylic acid ((R)-2-cyclopropylmethanesulfonyl-1-{(S)-1-[hydroxy-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-methyl]-propylcarbamoyl}-ethyl)-amide (370 mg, 0.70 mmol) in methylene chloride (10 mL) was treated with Dess Martin periodinane (298 mg, 0.70 mmol) and stirred at room temperature for 3 hours. The reaction mixture was washed with an aqueous solution of Na2S2O3 (0.26M), saturated aqueous bicarbonate solution and water, dried over Na2SO4 and the solvent evaporated under reduced pressure. The crude was subjected to flash chromatography eluting with a mixture of ethyl acetate and heptane. It was then further subjected to preparative HPLC (using Gilson 215 liquid handler, and MonoChrom 10 microns C18 column—PN0504—100×212 from MetaChem), eluting with a mixture of acetonitrile and water, going from 10% to 100% acetonitrile in water to give morpholine-4-carboxylic acid {(R)-2-cyclopropylmethanesulfonyl-1-[(S)-1-(5-trifluoromethyl-1,2,4-oxadiazole-3-carbonyl)-propylcarbamoyl]-ethyl}-amide as a white solid (9 mg). 1H NMR (CDCl3): 7.87 (d, J=6 Hz, 1H), 5.99 (d, J=6 Hz, 1H), 5.16 (m, 1H), 4.87 (m, 1H), 3.74-3.66 (m, 5H), 3.44-3.36 (m, 5H), 3.14 (d, J=7 Hz, 2H), 2.20-2.02 (m, 1H), 1.98-1.78 (m, 1H), 1.21 (m, 1H), 1.02 (t, J=7 Hz, 3H), 0.82-0.70 (m, 2H), 0.57-0.40 (m, 2H). MS: 526 (MH+)

reactant | morpholine-4-carboxylic acid ((R)-2-cyclopropylmethanesulfonyl-1-{(S)-1-[hydroxy-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-methyl]-propylcarbamoyl}-ethyl)-amide | 0.70 mmol, 370 mg | C1(CC1)CS(=O)(=O)C[C@@H](C(N[C@@H](CC)C(C1=NOC(=N1)C(F)(F)F)O)=O)NC(=O)N1CCOCC1 | C19H28F3N5O7S
reactant | Dess Martin periodinane | 0.70 mmol, 298 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | morpholine-4-carboxylic acid {(R)-2-cyclopropylmethanesulfonyl-1-[(S)-1-(5-trifluoromethyl-1,2,4-oxadiazole-3-carbonyl)-propylcarbamoyl]-ethyl}-amide | 9 mg | C1(CC1)CS(=O)(=O)C[C@@H](C(N[C@@H](CC)C(=O)C1=NOC(=N1)C(F)(F)F)=O)NC(=O)N1CCOCC1 | C19H26F3N5O7S
